US05993780
i. 5-Acetoxyacetamido-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide
5-Amino-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide (3.0 g, 4.03 mmol) was dissolved in dry N,N-dimethylacetamide (8 ml) at ambient temperature. With efficient stirring acetoxyacetyl chloride (4.39 ml, 40.3 mmol) was added dropwise, and the mixture was stirred overnight. The mixture was then added slowly with stirring into a saturated solution of sodium hydrogen carbonate (80 ml). The precepitate formed was filtered off and dissolved in chloroform (80 ml). The organic solution was washed with an aqueous saturated solution of NaHCO3 (25 ml), and then evaporated to dryness. The solid residue was dissolved in acetone and filtered through a pad of alumina with acetone as eluent. Evaporation of the solvent gave 3.38 g (100%) of a white crystalline product.

reactant | 5-Amino-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide | 4.03 mmol, 3.0 g | NC=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)COC(C)=O)I | C17H19I3N2O7
reactant | acetoxyacetyl chloride | 40.3 mmol, 4.39 ml | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | sodium hydrogen carbonate | 80 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 8 ml | CN(C(C)=O)C | C4H9NO
product | 5-Acetoxyacetamido-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide | 3.38 g, 100% | C(C)(=O)OCC(=O)NC=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)COC(C)=O)I | C21H23I3N2O10
